US05646173
A solution of LDA, prepared at 0° from 4.25 ml of diisopropyl-amine and 18.8 ml of N-butyllithium (1.6N in hexane), in 60 ml of anhydrous tetrahydrofuran, was added dropwise while stirring during 15 minutes to a solution, cooled to -70°, of 3.24 g of 5-methoxy-1-indanone in 350 ml of anhydrous tetrahydrofuran. After 45 minutes, a solution of 1.6 ml of chloroacetone in 60 ml of anhydrous tetra-hydrofuran was added dropwise to the solution during 15 minutes and the mixture was subsequently stirred at room temperature for 2 hours. The reaction mixture was poured on to 150 ml of ice, 150 ml of saturated sodium chloride solution were added and the mixture was extracted twice with 300 ml of diethyl ether each time. The combined organic phases were washed once with 200 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated in a vacuum. The crude product obtained was purified by column chromatography on silica gel (hexane/diethyl ether 3:7). 1.4 g (32%) of (RS)-5-methoxy-2-(2-oxopropyl)-1-indanone were obtained as a solid with m.p. 73°.

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | diisopropyl-amine | 4.25 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-butyllithium | 1.6N, 18.8 ml | [Li+].CCC[CH2-]
reactant | 5-methoxy-1-indanone | 3.24 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | chloroacetone | 1.6 ml | ClCC(C)=O | C3H5ClO
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | tetra-hydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (RS)-5-methoxy-2-(2-oxopropyl)-1-indanone | 1.4 g, 32% | COC=1C=C2CC(C(C2=CC1)=O)CC(C)=O | C13H14O3
